US20010020017A1
3(Diethylamino)-4-isopropoxy-3-cyclobutene-1,2-dione
A mixture of 3,4-diisopropoxy-3-cyclobutene-1,2-dione (1.0 g, 5.05 mmol) and diethylamine (549 μl, 5.30 mmol) in EtOH (25 ml) was stirred overnight at room temperature. The solvent was removed in vacuo to give the title compound as a yellow oil (1.0 g). δH (DMSO-d6, 390 K) 5.33-5.27 (1H, m), 3.58 (4H, q, J 7.1 Hz), 1.42 (6H, d, J 6.1 Hz), 1.23 (6H, t, J 7.2 Hz); m/z (ES+, 70 V) 212 (MH+).

reactant | 3,4-diisopropoxy-3-cyclobutene-1,2-dione | 5.05 mmol, 1.0 g | C(C)(C)OC=1C(C(C1OC(C)C)=O)=O | C10H14O4
reactant | diethylamine | 5.30 mmol, 549 μl | C(C)NCC | C4H11N
solvent | EtOH | 25 ml | CCO | C2H6O
product | 3(Diethylamino)-4-isopropoxy-3-cyclobutene-1,2-dione | 1.0 g | C(C)N(C=1C(C(C1OC(C)C)=O)=O)CC | C11H17NO3
